US07151105B2
Step 3: N-(4-Bromo-2-ethyl-benzyl)-acetamide
To 4-bromo-2-ethyl-benzylamine (700 mg, 3.3 mmol) and triethylamine (600 μL, 4.3 mmol) in dichloromethane (5 mL) at room temperature was added acetyl chloride (310 μL, 4.5 mmol). The solution was stirred for 1 h, diluted in water and extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate, then saturated sodium chloride, dried (Na2SO4), filtered, and concentrated in vacuo to an off-white solid (820 mg, 97%). 1H NMR (300 MHz, CDCl3): δ 1.20 (t, J=7.54 Hz, 3 H) 2.00 (s, 3 H) 2.62 (q, J=7.54 Hz, 2 H) 4.38 (d, J=5.46 Hz, 2 H) 5.59 (s, 1 H) 7.09 (d, J=8.10 Hz, 1 H) 7.26–7.31 (m, 1 H) 7.34 (d, J=1.88 Hz, 1 H).

reactant | 4-bromo-2-ethyl-benzylamine | 3.3 mmol, 700 mg | BrC1=CC(=C(CN)C=C1)CC | C9H12BrN
reactant | triethylamine | 4.3 mmol, 600 μL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 4.5 mmol, 310 μL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(4-Bromo-2-ethyl-benzyl)-acetamide | BrC1=CC(=C(CNC(C)=O)C=C1)CC | C11H14BrNO
